US07598418B2
Preparation of 6-amino-N-benzylnaphthalene-1-sulfonamide hydrochloride (Compound No. 8-1)
6-Acetylamino-N-benzylnaphthalene-1-sulfonamide (compound No. 7-1; 188 mg, 0.530 mmol) was suspended to a mixed solvent of 1-propanol (3.0 ml) and water (1.5 ml). Concentrated hydrochloric acid (1.5 ml) was added to the suspension and the mixture was refluxed for 1 hour. After cooling to room temperature, the separated crystal was collected and washed with 1-propanol and isopropyl ether to give the title compound as a light yellow crystal (118 mg, 63.8%).

reactant | 6-Acetylamino-N-benzylnaphthalene-1-sulfonamide | C(C)(=O)NC=1C=C2C=CC=C(C2=CC1)S(=O)(=O)NCC1=CC=CC=C1 | C19H18N2O3S
reactant | 1-propanol | 3.0 ml | C(CC)O | C3H8O
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | water | 1.5 ml | O | H2O
product | 6-amino-N-benzylnaphthalene-1-sulfonamide hydrochloride | 118 mg, 63.8% | Cl.NC=1C=C2C=CC=C(C2=CC1)S(=O)(=O)NCC1=CC=CC=C1 | InChI=1S/C17H16N2O2S.ClH/c18-15-9-10-16-14(11-15)7-4-8-17(16)22(20,21)19-12-13-5-2-1-3-6-13;/h1-11,19H,12,18H2;1H
